US05189157
Preparation of (6R-trans)-3-[[[(3,4-bis(acetyloxy)benzoyl]oxy]methyl]-8-oxo-7-[(phenoxyacetyl)amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid 1,1-dimethylethyl ester
By following the procedures and conditions described in Example 4, 2.33 g (8.95 mmol) of sodium 3,4-diacetoxybenzoate in 100 mL of DMF added to 4.75 g (8.95 mmol) of (6R-trans)-3-(iodomethyl)-8-oxo-7-[(phenoxyacetyl)amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid 1,1-dimethylethyl ester in 50 mL of DMF, followed by stirring for 2 hours, gave 3.36 g (58.5%) of a cream colored solid after silica gel chromatography (6:4 hexane/EtOAc).

reactant | sodium 3,4-diacetoxybenzoate | 8.95 mmol, 2.33 g | C(C)(=O)OC=1C=C(C(=O)[O-])C=CC1OC(C)=O.[Na+]
reactant | (6R-trans)-3-(iodomethyl)-8-oxo-7-[(phenoxyacetyl)amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid 1,1-dimethylethyl ester | 8.95 mmol, 4.75 g | CC(C)(C)OC(=O)C=1N2C([C@H]([C@H]2SCC1CI)NC(COC1=CC=CC=C1)=O)=O | C20H23IN2O5S
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | [[(3,4-bis(acetyloxy)benzoyl]oxy]methyl]-8-oxo-7-[(phenoxyacetyl)amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid 1,1-dimethylethyl ester | CC(C)(C)OC(=O)C=1N2C(C(C2SCC1COC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O)NC(COC1=CC=CC=C1)=O)=O | C31H32N2O11S
